US08124629B2
(4-Acetoxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid tert-butyl ester
The above prepared 3-[1-(4-fluoro-phenyl)-meth-(Z)-ylidene]-2-methyl-pentanedioic acid 5-tert-butyl ester (38.3 g, 124.2 mmol) was dissolved in acetic anhydride (96.00 mL, 995.3 mmol). To this solution was added potassium acetate (18.66 g, 186.3 mmol), and the reaction mixture was stirred at 85±2° C. for 10 hours, when HPLC analysis showed completed reaction. The reaction mixture was then cooled to room temperature and diluted with 96 mL of heptane. To this solution, 270 mL of water was added over 1 hour, while maintaining the internal temperature at ˜23° C. The mixture was then cooled to 0-5° C., and stirred for 2 hours. The solid formed was filtered, and then washed with water (2×40 mL), heptane (2×40 mL), and then dried under vacuum to furnish 28.5 g of a yellow solid, which was used in the next step without further purification.

reactant | 3-[1-(4-fluoro-phenyl)-meth-(Z)-ylidene]-2-methyl-pentanedioic acid 5-tert-butyl ester | 124.2 mmol, 38.3 g | C(C)(C)(C)OC(C/C(/C(C(=O)O)C)=C/C1=CC=C(C=C1)F)=O | C17H21FO4
reactant | acetic anhydride | 995.3 mmol, 96.00 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 186.3 mmol, 18.66 g | C(C)(=O)[O-].[K+]
reactant | water | 270 mL | O | H2O
solvent | heptane | 96 mL | CCCCCCC | C7H16
product | (4-Acetoxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid tert-butyl ester | 28.5 g | C(C)(C)(C)OC(CC1=CC2=CC=C(C=C2C(=C1C)OC(C)=O)F)=O | C19H21FO4
